### PR TITLE
[Merged by Bors] - feat: generalize measure-theoretic definitions using ENorm

### PR DESCRIPTION
**Pull request by fpvandoorn**
* Lemmas are *not* generalized yet (some lemmas can be generalized by just weakening the typeclasses, but others require rules how `enorm` interacts with algebraic operations).
* All proofs that broke unfolded the definition. Now they rewrite with a lemma giving the definition in terms of `nnnorm`.

---

- [x] depends on: #20121

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Normed/Group/Basic.lean [hunk 1]
```diff
@@ -63,14 +63,19 @@ class NNNorm (E : Type*) where
   /-- the `ℝ≥0`-valued norm function. -/
   nnnorm : E → ℝ≥0
 
+/-- Auxiliary class, endowing a type `α` with a function `enorm : α → ℝ≥0∞` with notation `‖x‖ₑ`. -/
+@[notation_class]
+class ENorm (E : Type*) where
+  /-- the `ℝ≥0∞`-valued norm function. -/
```
Comment (grunweg) [inline Mathlib/Analysis/Normed/Group/Basic.lean:69]:
```suggestion
  /-- the `ℝ≥0∞`-valued norm function -/

File: Mathlib/Analysis/NormedSpace/ENormedSpace.lean [hunk 2]
```diff
@@ -35,38 +35,42 @@ normed space, extended norm
...
 attribute [local instance] Classical.propDecidable
+set_option linter.deprecated false
 
 open ENNReal
 
 /-- Extended norm on a vector space. As in the case of normed spaces, we require only
 `‖c • x‖ ≤ ‖c‖ * ‖x‖` in the definition, then prove an equality in `map_smul`. -/
-structure ENorm (𝕜 : Type*) (V : Type*) [NormedField 𝕜] [AddCommGroup V] [Module 𝕜 V] where
+structure ENormedSpace (𝕜 : Type*) (V : Type*) [NormedField 𝕜] [AddCommGroup V] [Module 𝕜 V] where
+  /-- The underlying function of an ENormedspace -/
```
Comment (grunweg) [inline Mathlib/Analysis/NormedSpace/ENormedSpace.lean:45]:
```suggestion
  /-- the underlying function of an ENormedSpace -/

File: Mathlib/Analysis/NormedSpace/ENormedSpace.lean [hunk 3]
```diff
@@ -108,14 +112,14 @@ theorem map_sub_le (x y : V) : e (x - y) ≤ e x + e y :=
     _ ≤ e x + e (-y) := e.map_add_le x (-y)
     _ = e x + e y := by rw [e.map_neg]
 
-instance partialOrder : PartialOrder (ENorm 𝕜 V) where
+instance partialOrder : PartialOrder (ENormedSpace 𝕜 V) where
```
Comment (grunweg) [inline Mathlib/Analysis/NormedSpace/ENormedSpace.lean:115]: rename this instance to match the conventions (e.g. `instPartialOrder`), while at it?

File: Mathlib/Analysis/NormedSpace/ENormedSpace.lean [hunk 4]
```diff
@@ -9,14 +9,14 @@ import Mathlib.LinearAlgebra.Basis.VectorSpace
 /-!
 # Extended norm
 
-In this file we define a structure `ENorm 𝕜 V` representing an extended norm (i.e., a norm that can
```
Comment (grunweg) [inline Mathlib/Analysis/NormedSpace/ENormedSpace.lean:12]: Would you like to split this renaming into its own PR? Should this rename come with deprecations?
(For instance, if the rename lands before the new Lean version, one could add the new name after the new version; providing at least some minimal grace period. We don't have a great way of dealing with "rename X to Y, and introduce X with new meaning" changes, right?)

File: Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean [hunk 5]
```diff
@@ -642,15 +656,10 @@ alias snorm_norm := eLpNorm_norm
...
-  simp_rw [eLpNorm']
-  rw [← ENNReal.rpow_mul, ← one_div_mul_one_div]
-  simp_rw [one_div]
-  rw [mul_assoc, inv_mul_cancel₀ hq_pos.ne.symm, mul_one]
-  congr
-  ext1 x
-  simp_rw [← ofReal_norm_eq_coe_nnnorm]
-  rw [Real.norm_eq_abs, abs_eq_self.mpr (Real.rpow_nonneg (norm_nonneg _) _), mul_comm, ←
-    ENNReal.ofReal_rpow_of_nonneg (norm_nonneg _) hq_pos.le, ENNReal.rpow_mul]
+  simp_rw [eLpNorm'_eq_lintegral_nnnorm, ← ENNReal.rpow_mul, ← one_div_mul_one_div, one_div,
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean:659]: This golf was also mostly pre-existing, right? (I'll happily review the PR with just this golf. Not required from my side.)

File: Mathlib/MeasureTheory/Function/L1Space.lean [hunk 6]
```diff
@@ -1341,17 +1347,15 @@ theorem aemeasurable_coeFn [MeasurableSpace β] [BorelSpace β] (f : α →₁[
...
-    ENNReal.rpow_one, ne_eq, not_false_eq_true, div_self, ite_false]
+  simp only [Lp.edist_def, eLpNorm, one_ne_zero, eLpNorm'_eq_lintegral_nnnorm, Pi.sub_apply,
+    one_toReal, ENNReal.rpow_one, ne_eq, not_false_eq_true, div_self, ite_false]
   simp [edist_eq_coe_nnnorm_sub]
 
 theorem dist_def (f g : α →₁[μ] β) : dist f g = (∫⁻ a, edist (f a) (g a) ∂μ).toReal := by
-  simp only [Lp.dist_def, eLpNorm, one_ne_zero, eLpNorm', Pi.sub_apply, one_toReal,
-    ENNReal.rpow_one, ne_eq, not_false_eq_true, div_self, ite_false]
-  simp [edist_eq_coe_nnnorm_sub]
+  simp_rw [dist_edist, edist_def]
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Function/L1Space.lean:1355]: As below: this golfing was possible previously, right? Happy to approve a separate PR (not required).

**Review by grunweg — APPROVED** [review]
I know this is  WIP PR; I took a look anyway. I only have small comments. My biggest two are
- would a separate PR for the two small golfs make sense (optional)
- I wonder if splitting the rename `Enorm`-> `ENormedSpace` into a separate PR makes sense (I'll happily approve, I'll be online occasionally until the 26th)
- should that rename have a deprecation?

**Comment by grunweg** [comment]
Update: never mind, most of diff was from a dependent PR. That answers my questions about deprecations, splitting a rename etc.

File: Mathlib/MeasureTheory/Function/L1Space.lean (hunk 6 above)
Comment (fpvandoorn) [reply Mathlib/MeasureTheory/Function/L1Space.lean:1355]: Yes, there were a few proofs where I did unrelated golfs.

**Comment by fpvandoorn** [comment]
I don't think I'll spend time on finishing this in the next few days. Feel free to fix the remaining broken proofs if you have time.

File: Mathlib/MeasureTheory/Function/L2Space.lean [hunk 7]
```diff
@@ -184,15 +184,15 @@ theorem integrable_inner (f g : α →₂[μ] E) : Integrable (fun x : α => ⟪
     (AEEqFun.integrable_iff_mem_L1.mpr (mem_L1_inner f g))
 
 private theorem add_left' (f f' g : α →₂[μ] E) : ⟪f + f', g⟫ = inner f g + inner f' g := by
-  simp_rw [inner_def, ← integral_add (integrable_inner f g) (integrable_inner f' g), ←
-    inner_add_left]
+  simp_rw [inner_def]
+  rw [← integral_add (integrable_inner f g) (integrable_inner f' g)]
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Function/L2Space.lean:188]: I'm not quite sure why this change is necessary. (Making everything one `simp_rw` certainly fails now.)
A careful look if there are deeper issues would be appreciated.

File: Mathlib/Probability/Integration.lean [hunk 8]
```diff
@@ -164,6 +164,7 @@ theorem IndepFun.integrable_left_of_integrable_mul {β : Type*} [MeasurableSpace
     apply IndepFun.comp hXY M M
   have A : (∫⁻ ω, ‖X ω * Y ω‖₊ ∂μ) < ∞ := h'XY.2
   simp only [nnnorm_mul, ENNReal.coe_mul] at A
+  simp_rw [enorm_eq_nnnorm] at H
```
Comment (grunweg) [inline Mathlib/Probability/Integration.lean:167]: There might be a more elegant solution: pointing this out just in case.

**Comment by grunweg** [comment]
@fpvandoorn mathlib builds now (linting is in progress). Double-checking some changes could be helpful (I've commented on them); most fixes were indeed uncontroversial.

File: Mathlib/MeasureTheory/Function/L2Space.lean (hunk 7 above)
Comment (fpvandoorn) [reply Mathlib/MeasureTheory/Function/L2Space.lean]: Never mind, that was elsewhere. 
There is nothing in the conclusion of `integrable_inner` that identifies `𝕜`. 
It probably should be explicit, and I assume that before it could be synthesized using simple unification of instance arguments, which now fails.

File: Mathlib/Probability/Integration.lean (hunk 8 above)
Comment (fpvandoorn) [reply Mathlib/Probability/Integration.lean]: Changed the proof slightly to not unfold the definition of `HasFiniteIntegral`.

**Comment by fpvandoorn** [comment]
Thanks for finishing the fixes. It is now ready to merge on my side

File: Mathlib/MeasureTheory/Function/L2Space.lean (hunk 7 above)
Comment (grunweg) [reply Mathlib/MeasureTheory/Function/L2Space.lean]: Thanks for the clarification! I agree with your fixes.
I'll put "make k in `integrable_inner` explicit" on my follow-up list of PR - in the new year.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
